US07049438B2
4-(3-chlorobenzofuran-7-ylamino)-7-methoxy-5-(N-methylpiperidin-4-yloxy)quinazoline dihydrochloride
Using an analogous procedure to that described in Example 5, 4-chloro-7-methoxy-5-(N-methylpiperidin-4-yloxy)quinazoline was reacted with 7-amino-3-chlorobenzofuran to give the title compound, a portion of which was treated with a saturated methanolic ammonia solution. The mixture was filtered and the filtrate was evaporated to give the free base; NMR Spectrum: (CDCl3) 2.0–2.4 (m, 6H), 2.33 (s, 3H), 2.9 (m, 2H), 3.93 (s, 3H), 4.6 (m, 1H), 6.56 (s, 1H), 6.9 (s, 1H), 7.3–7.4 (m, 2H), 7.7 (br s, 1H ), 8.64 (s, 1H), 8.7 (d, 1H), 10.3 (br s, 1H); Mass Spectrum: M+H+ 439 and 441.

reactant | 4-chloro-7-methoxy-5-(N-methylpiperidin-4-yloxy)quinazoline | ClC1=NC=NC2=CC(=CC(=C12)OC1CCN(CC1)C)OC | C15H18ClN3O2
reactant | 7-amino-3-chlorobenzofuran | NC1=CC=CC=2C(=COC21)Cl | C8H6ClNO
product | 4-(3-chlorobenzofuran-7-ylamino)-7-methoxy-5-(N-methylpiperidin-4-yloxy)quinazoline dihydrochloride | Cl.Cl.ClC1=COC2=C1C=CC=C2NC2=NC=NC1=CC(=CC(=C21)OC2CCN(CC2)C)OC | InChI=1S/C23H23ClN4O3.2ClH/c1-28-8-6-14(7-9-28)31-20-11-15(29-2)10-19-21(20)23(26-13-25-19)27-18-5-3-4-16-17(24)12-30-22(16)18;;/h3-5,10-14H,6-9H2,1-2H3,(H,25,26,27);2*1H
